US07867690B2
A three-necked flask having an inner volume of 100 mL, which was equipped with a thermometer, was charged with 3.48 g (30.0 mmoles) of 4-hydroxy-4-methyltetrahydropyran and 30.0 g of methylene chloride, and the inside of the flask was purged with nitrogen. This mixed solution was cooled with ice water; 4.40 mL (45.0 mmoles) of methacryloly chloride was subsequently added; and 6.27 mL (45.0 mmoles) of triethylamine was further added dropwise slowly while maintaining the temperature of the reaction solution at 2 to 5° C. After completion of the dropwise addition, stirring was continued at 4 to 5° C. for 3 hours. 20 mL of water and 20 mL of a saturated sodium hydrogencarbonate aqueous solution were successively added slowly to the obtained reaction mixed solution, and after stirring for a while, the mixture was allowed to stand, thereby separating it into an aqueous layer and an organic layer. The aqueous layer was extracted twice with 30 mL of methylene chloride; the extract was combined with the foregoing organic layer; the mixture was washed once with 10 mL of saturated salt water, dried over anhydrous magnesium sulfate and then concentrated in vacuo; and the obtained residue was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate=8/1 (volume ratio)), thereby obtaining 3.03 g (16.45 mmoles) of 4-methacryloyloxy-4-methyltetrahydropyran having the following physical properties as a colorless transparent liquid (purity: 99%, yield: 55%).

reactant | 4-hydroxy-4-methyltetrahydropyran | 30.0 mmoles, 3.48 g | OC1(CCOCC1)C | C6H12O2
reactant | methylene chloride | 30.0 g | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 45.0 mmoles, 6.27 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | 20 mL | C(O)([O-])=O.[Na+]
solvent | water | 20 mL | O | H2O
product | 4-methacryloyloxy-4-methyltetrahydropyran | 16.45 mmoles, 3.03 g, yield: 55% | C(C(=C)C)(=O)OC1(CCOCC1)C | C10H16O3
